US05530118
N-{1-[2-(6-Methyl-2-pyridyl)ethyl]-4-piperidyl}-4-(N-methylamino)benzenesulfonamide
The N-(4-piperidyl)-4-(N-acetyl-N-methylamino)benzenesulfonamide acetate (3.71 g, 10.0 mmol), 6-methyl-2-vinylpyridine (1.43 g, 12.0 mmol ) and sodium acetate (0.82 g) were dissolved in a mixture comprising methanol (20 ml) and water (20 ml). The obtained solution was heated under reflux for 5 hours, followed by the addition of sodium hydroxide (3.20 g). The obtained mixture was heated under reflux for additional three hours and acidified with 2N aqueous hydrochloric acid. The pH of the mixture was adjusted to about 8 with an aqueous solution of sodium hydrogencarbonate. The resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of common salt, dried over magnesium sulfate and concentrated. The obtained oily residue was purified by column chromatography (chloroform:methanol:aqueous ammonia=90:9:1) and recrystallized from ethyl acetate/ether to give the title compound as a white crystal (2.71 g, overall yield of two steps: 70%).

reactant | N-(4-piperidyl)-4-(N-acetyl-N-methylamino)benzenesulfonamide acetate | 10.0 mmol, 3.71 g | C(C)(=O)O.N1CCC(CC1)NS(=O)(=O)C1=CC=C(C=C1)N(C)C(C)=O
reactant | 6-methyl-2-vinylpyridine | 12.0 mmol, 1.43 g | CC1=CC=CC(=N1)C=C | C8H9N
reactant | sodium acetate | 0.82 g | C(C)(=O)[O-].[Na+]
reactant | sodium hydroxide | 3.20 g | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | N-{1-[2-(6-Methyl-2-pyridyl)ethyl]-4-piperidyl}-4-(N-methylamino)benzenesulfonamide | 2.71 g, 70% | CC1=CC=CC(=N1)CCN1CCC(CC1)NS(=O)(=O)C1=CC=C(C=C1)NC | C20H28N4O2S
